* NGSPICE file created from user_analog_project_wrapper.ext - technology: sky130A

.subckt esd out in VDD GND
X0 in VDD VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X1 out GND GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X2 in GND GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X3 VDD VDD out VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X4 in out GND sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
.ends

.subckt VCO_Flat VP VCT OUT_1 VN VB OUT_4 OUT_3 OUT_2 OUT_5
X0 VP a_n8096_3410# a_n10240_3400# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X1 VN a_n6412_3410# a_n8096_3410# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X2 VP Buff_VCO_2/IN a_n6412_3410# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X3 VP a_23946_2522# a_25144_2518# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X4 a_n10240_3400# a_n8096_3410# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X5 VN Buff_VCO_4/IN a_n19708_3400# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X6 a_6260_5590# a_n1606_2236# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X7 VP a_25144_2518# OUT_2 VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X8 VN a_n21392_3400# a_n23536_3388# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X9 VN a_n12878_3412# a_n14562_3412# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X10 a_n16706_3404# a_n14562_3412# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X11 OUT_3 a_n10240_3400# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X12 OUT_1 a_18656_2520# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X13 VP VCT a_9348_5588# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X14 OUT_1 a_18656_2520# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X15 a_n16706_3404# a_n14562_3412# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X16 Buff_VCO_3/IN Buff_VCO_4/IN a_3194_252# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X17 VP a_n12878_3412# a_n14562_3412# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X18 VN a_n23536_3388# OUT_5 VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X19 a_18656_2520# a_17458_2524# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X20 a_274_5606# a_n1606_2236# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X21 Buff_VCO_1/IN Buff_VCO_2/IN a_9312_250# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X22 a_17458_2524# a_16766_2534# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X23 OUT_2 a_25144_2518# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X24 VN a_n19708_3400# a_n21392_3400# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X25 a_n23536_3388# a_n21392_3400# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X26 a_n12878_3412# Buff_VCO_3/IN VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X27 a_3230_5590# VCT VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X28 OUT_5 a_n23536_3388# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X29 a_n1698_2236# a_n1698_2236# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=200000u M=8
X30 a_23946_2522# a_23254_2532# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X31 VN a_23946_2522# a_25144_2518# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X32 VN a_17458_2524# a_18656_2520# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X33 VN a_n16706_3404# OUT_4 VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X34 VP VCT a_12504_5562# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X35 a_23946_2522# a_23254_2532# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X36 a_12504_5562# Buff_VCO_3/IN Buff_VCO_0/IN VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X37 a_n1606_2236# a_n1606_2236# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=200000u M=8
X38 a_6260_5590# VCT VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X39 VP a_n6412_3410# a_n8096_3410# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X40 a_3230_5590# Buff_VCO_1/IN Buff_VCO_3/IN VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X41 OUT_4 a_n16706_3404# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X42 Buff_VCO_4/IN Buff_VCO_2/IN a_274_5606# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X43 VN Buff_VCO_0/IN a_16766_2534# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X44 a_274_5606# VCT VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X45 a_9312_250# a_1976_242# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X46 VN a_n10240_3400# OUT_3 VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X47 a_12504_5562# a_n1606_2236# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X48 VP Buff_VCO_0/IN a_16766_2534# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X49 a_12468_224# a_1976_242# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X50 Buff_VCO_4/IN Buff_VCO_0/IN a_238_268# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X51 a_9348_5588# a_n1606_2236# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X52 Buff_VCO_2/IN Buff_VCO_0/IN a_6260_5590# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X53 VP Buff_VCO_4/IN a_n19708_3400# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X54 VN a_n1698_2236# a_6224_252# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X55 a_17458_2524# a_16766_2534# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X56 Buff_VCO_2/IN Buff_VCO_3/IN a_6224_252# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X57 a_n1698_2236# VB a_n1606_2236# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X58 a_6224_252# a_1976_242# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X59 a_3230_5590# a_n1606_2236# VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X60 a_3194_252# a_1976_242# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X61 a_23254_2532# Buff_VCO_1/IN VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X62 VP a_n19708_3400# a_n21392_3400# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X63 Buff_VCO_0/IN Buff_VCO_1/IN a_12468_224# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X64 VN Buff_VCO_2/IN a_n6412_3410# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X65 a_23254_2532# Buff_VCO_1/IN VP VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X66 a_9312_250# a_n1698_2236# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X67 a_9348_5588# Buff_VCO_4/IN Buff_VCO_1/IN VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X68 VN a_n1698_2236# a_12468_224# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X69 Buff_VCO_2/IN Buff_VCO_0/IN VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
X70 VN Buff_VCO_3/IN a_n12878_3412# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X71 a_238_268# a_1976_242# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X72 VN a_n1698_2236# a_3194_252# VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X73 Buff_VCO_0/IN Buff_VCO_3/IN VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
X74 Buff_VCO_3/IN Buff_VCO_1/IN VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
X75 a_238_268# a_n1698_2236# VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X76 VP VN a_1976_242# VP sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+07u l=150000u M=2
X77 a_1976_242# VCT VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=6e+06u l=150000u
X78 Buff_VCO_1/IN Buff_VCO_4/IN VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
X79 Buff_VCO_4/IN Buff_VCO_2/IN VN VN sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
.ends

.subckt user_analog_project_wrapper gpio_analog[0] gpio_analog[10] gpio_analog[11]
+ gpio_analog[12] gpio_analog[13] gpio_analog[14] gpio_analog[15] gpio_analog[16]
+ gpio_analog[17] gpio_analog[1] gpio_analog[2] gpio_analog[3] gpio_analog[4]
+ gpio_analog[5] gpio_analog[6] gpio_analog[7] gpio_analog[8] gpio_analog[9]
+ gpio_noesd[0] gpio_noesd[10] gpio_noesd[11] gpio_noesd[12] gpio_noesd[13]
+ gpio_noesd[14] gpio_noesd[15] gpio_noesd[16] gpio_noesd[17] gpio_noesd[1]
+ gpio_noesd[2] gpio_noesd[3] gpio_noesd[4] gpio_noesd[5] gpio_noesd[6]
+ gpio_noesd[7] gpio_noesd[8] gpio_noesd[9] io_analog[0] io_analog[10]
+ io_analog[1] io_analog[2] io_analog[3] io_analog[4] io_analog[5]
+ io_analog[6] io_analog[7] io_analog[8] io_analog[9] io_in[0]
+ io_in[10] io_in[11] io_in[12] io_in[13] io_in[14]
+ io_in[15] io_in[16] io_in[17] io_in[18] io_in[19]
+ io_in[1] io_in[20] io_in[21] io_in[22] io_in[23]
+ io_in[24] io_in[25] io_in[26] io_in[2] io_in[3]
+ io_in[4] io_in[5] io_in[6] io_in[7] io_in[8]
+ io_in[9] io_in_3v3[0] io_in_3v3[10] io_in_3v3[11] io_in_3v3[12]
+ io_in_3v3[13] io_in_3v3[14] io_in_3v3[15] io_in_3v3[16] io_in_3v3[17]
+ io_in_3v3[18] io_in_3v3[19] io_in_3v3[1] io_in_3v3[20] io_in_3v3[21]
+ io_in_3v3[22] io_in_3v3[23] io_in_3v3[24] io_in_3v3[25] io_in_3v3[26]
+ io_in_3v3[2] io_in_3v3[3] io_in_3v3[4] io_in_3v3[5] io_in_3v3[6]
+ io_in_3v3[7] io_in_3v3[8] io_in_3v3[9] io_oeb[0] io_oeb[10]
+ io_oeb[11] io_oeb[12] io_oeb[13] io_oeb[14] io_oeb[15]
+ io_oeb[16] io_oeb[17] io_oeb[18] io_oeb[19] io_oeb[1]
+ io_oeb[20] io_oeb[21] io_oeb[22] io_oeb[23] io_oeb[24]
+ io_oeb[25] io_oeb[26] io_oeb[2] io_oeb[3] io_oeb[4]
+ io_oeb[5] io_oeb[6] io_oeb[7] io_oeb[8] io_oeb[9]
+ io_out[0] io_out[10] io_out[11] io_out[12] io_out[13]
+ io_out[14] io_out[15] io_out[16] io_out[17] io_out[18]
+ io_out[19] io_out[1] io_out[20] io_out[21] io_out[22]
+ io_out[23] io_out[24] io_out[25] io_out[26] io_out[2]
+ io_out[3] io_out[4] io_out[5] io_out[6] io_out[7]
+ io_out[8] io_out[9] la_data_in[0] la_data_in[100] la_data_in[101]
+ la_data_in[102] la_data_in[103] la_data_in[104] la_data_in[105] la_data_in[106]
+ la_data_in[107] la_data_in[108] la_data_in[109] la_data_in[10] la_data_in[110]
+ la_data_in[111] la_data_in[112] la_data_in[113] la_data_in[114] la_data_in[115]
+ la_data_in[116] la_data_in[117] la_data_in[118] la_data_in[119] la_data_in[11]
+ la_data_in[120] la_data_in[121] la_data_in[122] la_data_in[123] la_data_in[124]
+ la_data_in[125] la_data_in[126] la_data_in[127] la_data_in[12] la_data_in[13]
+ la_data_in[14] la_data_in[15] la_data_in[16] la_data_in[17] la_data_in[18]
+ la_data_in[19] la_data_in[1] la_data_in[20] la_data_in[21] la_data_in[22]
+ la_data_in[23] la_data_in[24] la_data_in[25] la_data_in[26] la_data_in[27]
+ la_data_in[28] la_data_in[29] la_data_in[2] la_data_in[30] la_data_in[31]
+ la_data_in[32] la_data_in[33] la_data_in[34] la_data_in[35] la_data_in[36]
+ la_data_in[37] la_data_in[38] la_data_in[39] la_data_in[3] la_data_in[40]
+ la_data_in[41] la_data_in[42] la_data_in[43] la_data_in[44] la_data_in[45]
+ la_data_in[46] la_data_in[47] la_data_in[48] la_data_in[49] la_data_in[4]
+ la_data_in[50] la_data_in[51] la_data_in[52] la_data_in[53] la_data_in[54]
+ la_data_in[55] la_data_in[56] la_data_in[57] la_data_in[58] la_data_in[59]
+ la_data_in[5] la_data_in[60] la_data_in[61] la_data_in[62] la_data_in[63]
+ la_data_in[64] la_data_in[65] la_data_in[66] la_data_in[67] la_data_in[68]
+ la_data_in[69] la_data_in[6] la_data_in[70] la_data_in[71] la_data_in[72]
+ la_data_in[73] la_data_in[74] la_data_in[75] la_data_in[76] la_data_in[77]
+ la_data_in[78] la_data_in[79] la_data_in[7] la_data_in[80] la_data_in[81]
+ la_data_in[82] la_data_in[83] la_data_in[84] la_data_in[85] la_data_in[86]
+ la_data_in[87] la_data_in[88] la_data_in[89] la_data_in[8] la_data_in[90]
+ la_data_in[91] la_data_in[92] la_data_in[93] la_data_in[94] la_data_in[95]
+ la_data_in[96] la_data_in[97] la_data_in[98] la_data_in[99] la_data_in[9]
+ la_data_out[0] la_data_out[100] la_data_out[101] la_data_out[102] la_data_out[103]
+ la_data_out[104] la_data_out[105] la_data_out[106] la_data_out[107] la_data_out[108]
+ la_data_out[109] la_data_out[10] la_data_out[110] la_data_out[111] la_data_out[112]
+ la_data_out[113] la_data_out[114] la_data_out[115] la_data_out[116] la_data_out[117]
+ la_data_out[118] la_data_out[119] la_data_out[11] la_data_out[120] la_data_out[121]
+ la_data_out[122] la_data_out[123] la_data_out[124] la_data_out[125] la_data_out[126]
+ la_data_out[127] la_data_out[12] la_data_out[13] la_data_out[14] la_data_out[15]
+ la_data_out[16] la_data_out[17] la_data_out[18] la_data_out[19] la_data_out[1]
+ la_data_out[20] la_data_out[21] la_data_out[22] la_data_out[23] la_data_out[24]
+ la_data_out[25] la_data_out[26] la_data_out[27] la_data_out[28] la_data_out[29]
+ la_data_out[2] la_data_out[30] la_data_out[31] la_data_out[32] la_data_out[33]
+ la_data_out[34] la_data_out[35] la_data_out[36] la_data_out[37] la_data_out[38]
+ la_data_out[39] la_data_out[3] la_data_out[40] la_data_out[41] la_data_out[42]
+ la_data_out[43] la_data_out[44] la_data_out[45] la_data_out[46] la_data_out[47]
+ la_data_out[48] la_data_out[49] la_data_out[4] la_data_out[50] la_data_out[51]
+ la_data_out[52] la_data_out[53] la_data_out[54] la_data_out[55] la_data_out[56]
+ la_data_out[57] la_data_out[58] la_data_out[59] la_data_out[5] la_data_out[60]
+ la_data_out[61] la_data_out[62] la_data_out[63] la_data_out[64] la_data_out[65]
+ la_data_out[66] la_data_out[67] la_data_out[68] la_data_out[69] la_data_out[6]
+ la_data_out[70] la_data_out[71] la_data_out[72] la_data_out[73] la_data_out[74]
+ la_data_out[75] la_data_out[76] la_data_out[77] la_data_out[78] la_data_out[79]
+ la_data_out[7] la_data_out[80] la_data_out[81] la_data_out[82] la_data_out[83]
+ la_data_out[84] la_data_out[85] la_data_out[86] la_data_out[87] la_data_out[88]
+ la_data_out[89] la_data_out[8] la_data_out[90] la_data_out[91] la_data_out[92]
+ la_data_out[93] la_data_out[94] la_data_out[95] la_data_out[96] la_data_out[97]
+ la_data_out[98] la_data_out[99] la_data_out[9] la_oenb[0] la_oenb[100]
+ la_oenb[101] la_oenb[102] la_oenb[103] la_oenb[104] la_oenb[105]
+ la_oenb[106] la_oenb[107] la_oenb[108] la_oenb[109] la_oenb[10]
+ la_oenb[110] la_oenb[111] la_oenb[112] la_oenb[113] la_oenb[114]
+ la_oenb[115] la_oenb[116] la_oenb[117] la_oenb[118] la_oenb[119]
+ la_oenb[11] la_oenb[120] la_oenb[121] la_oenb[122] la_oenb[123]
+ la_oenb[124] la_oenb[125] la_oenb[126] la_oenb[127] la_oenb[12]
+ la_oenb[13] la_oenb[14] la_oenb[15] la_oenb[16] la_oenb[17]
+ la_oenb[18] la_oenb[19] la_oenb[1] la_oenb[20] la_oenb[21]
+ la_oenb[22] la_oenb[23] la_oenb[24] la_oenb[25] la_oenb[26]
+ la_oenb[27] la_oenb[28] la_oenb[29] la_oenb[2] la_oenb[30]
+ la_oenb[31] la_oenb[32] la_oenb[33] la_oenb[34] la_oenb[35]
+ la_oenb[36] la_oenb[37] la_oenb[38] la_oenb[39] la_oenb[3]
+ la_oenb[40] la_oenb[41] la_oenb[42] la_oenb[43] la_oenb[44]
+ la_oenb[45] la_oenb[46] la_oenb[47] la_oenb[48] la_oenb[49]
+ la_oenb[4] la_oenb[50] la_oenb[51] la_oenb[52] la_oenb[53]
+ la_oenb[54] la_oenb[55] la_oenb[56] la_oenb[57] la_oenb[58]
+ la_oenb[59] la_oenb[5] la_oenb[60] la_oenb[61] la_oenb[62]
+ la_oenb[63] la_oenb[64] la_oenb[65] la_oenb[66] la_oenb[67]
+ la_oenb[68] la_oenb[69] la_oenb[6] la_oenb[70] la_oenb[71]
+ la_oenb[72] la_oenb[73] la_oenb[74] la_oenb[75] la_oenb[76]
+ la_oenb[77] la_oenb[78] la_oenb[79] la_oenb[7] la_oenb[80]
+ la_oenb[81] la_oenb[82] la_oenb[83] la_oenb[84] la_oenb[85]
+ la_oenb[86] la_oenb[87] la_oenb[88] la_oenb[89] la_oenb[8]
+ la_oenb[90] la_oenb[91] la_oenb[92] la_oenb[93] la_oenb[94]
+ la_oenb[95] la_oenb[96] la_oenb[97] la_oenb[98] la_oenb[99]
+ la_oenb[9] user_clock2 user_irq[0] user_irq[1] user_irq[2]
+ vccd2 vdda1 vdda2 vssa2 vssd1
+ vssd2 wb_clk_i wb_rst_i wbs_ack_o wbs_adr_i[0]
+ wbs_adr_i[10] wbs_adr_i[11] wbs_adr_i[12] wbs_adr_i[13] wbs_adr_i[14]
+ wbs_adr_i[15] wbs_adr_i[16] wbs_adr_i[17] wbs_adr_i[18] wbs_adr_i[19]
+ wbs_adr_i[1] wbs_adr_i[20] wbs_adr_i[21] wbs_adr_i[22] wbs_adr_i[23]
+ wbs_adr_i[24] wbs_adr_i[25] wbs_adr_i[26] wbs_adr_i[27] wbs_adr_i[28]
+ wbs_adr_i[29] wbs_adr_i[2] wbs_adr_i[30] wbs_adr_i[31] wbs_adr_i[3]
+ wbs_adr_i[4] wbs_adr_i[5] wbs_adr_i[6] wbs_adr_i[7] wbs_adr_i[8]
+ wbs_adr_i[9] wbs_cyc_i wbs_dat_i[0] wbs_dat_i[10] wbs_dat_i[11]
+ wbs_dat_i[12] wbs_dat_i[13] wbs_dat_i[14] wbs_dat_i[15] wbs_dat_i[16]
+ wbs_dat_i[17] wbs_dat_i[18] wbs_dat_i[19] wbs_dat_i[1] wbs_dat_i[20]
+ wbs_dat_i[21] wbs_dat_i[22] wbs_dat_i[23] wbs_dat_i[24] wbs_dat_i[25]
+ wbs_dat_i[26] wbs_dat_i[27] wbs_dat_i[28] wbs_dat_i[29] wbs_dat_i[2]
+ wbs_dat_i[30] wbs_dat_i[31] wbs_dat_i[3] wbs_dat_i[4] wbs_dat_i[5]
+ wbs_dat_i[6] wbs_dat_i[7] wbs_dat_i[8] wbs_dat_i[9] wbs_dat_o[0]
+ wbs_dat_o[10] wbs_dat_o[11] wbs_dat_o[12] wbs_dat_o[13] wbs_dat_o[14]
+ wbs_dat_o[15] wbs_dat_o[16] wbs_dat_o[17] wbs_dat_o[18] wbs_dat_o[19]
+ wbs_dat_o[1] wbs_dat_o[20] wbs_dat_o[21] wbs_dat_o[22] wbs_dat_o[23]
+ wbs_dat_o[24] wbs_dat_o[25] wbs_dat_o[26] wbs_dat_o[27] wbs_dat_o[28]
+ wbs_dat_o[29] wbs_dat_o[2] wbs_dat_o[30] wbs_dat_o[31] wbs_dat_o[3]
+ wbs_dat_o[4] wbs_dat_o[5] wbs_dat_o[6] wbs_dat_o[7] wbs_dat_o[8]
+ wbs_dat_o[9] wbs_sel_i[0] wbs_sel_i[1] wbs_sel_i[2] wbs_sel_i[3]
+ wbs_stb_i wbs_we_i vssa1 vccd1
Xesd_0 io_analog[6] esd_0/in vccd1 vssa1 esd
Xesd_1 io_analog[1] esd_1/in vccd1 vssa1 esd
Xesd_2 io_analog[2] esd_2/in vccd1 vssa1 esd
Xesd_3 io_analog[3] esd_3/in vccd1 vssa1 esd
Xesd_4 io_analog[4] esd_4/in vccd1 vssa1 esd
Xesd_5 io_analog[5] esd_5/in vccd1 vssa1 esd
Xesd_6 io_analog[7] esd_6/in vccd1 vssa1 esd
XVCO_Flat_0 vccd1 esd_1/in esd_0/in vssa1 esd_2/in esd_4/in esd_5/in esd_6/in esd_3/in
+ VCO_Flat
.ends

